US06136831
The mixture of 4,4,4-trifluoro-1-(6-methoxybenzothiazol-2-yl)butane-1,3-dione (300 mg, 1.0 mmol) and 4-methylsulfonyl-phenylhydrazine hydrochloride (260 mg, 1.1 mmol) was heated under reflux in ethanol (50 ml) for 3.5 hours, and then allowed to cool. The precipitated crystals were collected and subjected to recrystallization from ethanol and ethyl acetate-isooctane to afford 6-methoxy-2-[1-(4-methylsulfonylphenyl)-3-trifluoromethyl-1H-pyrazol-5-yl]benzothiazole (350 mg, 77%). NMR(CDCl3) δ: 3.11 (3H, s), 3.89 (3H, s), 7.11 (1H, dd, J=2.3 Hz, 8.6 Hz), 7.20 (1H, s), 7.32 (1H, d, J=2.3 Hz), 7.75 (2H, d, J=8.6 Hz), 7.82 (1H, d, J=8.6 Hz), 8.04 (2H, d, J=8.6 Hz); mp 217-218° C.

reactant | 4,4,4-trifluoro-1-(6-methoxybenzothiazol-2-yl)butane-1,3-dione | 1.0 mmol, 300 mg | FC(C(CC(=O)C=1SC2=C(N1)C=CC(=C2)OC)=O)(F)F | C12H8F3NO3S
reactant | 4-methylsulfonyl-phenylhydrazine hydrochloride | 1.1 mmol, 260 mg | Cl.CS(=O)(=O)C1=CC=C(C=C1)NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-methoxy-2-[1-(4-methylsulfonylphenyl)-3-trifluoromethyl-1H-pyrazol-5-yl]benzothiazole | 350 mg, 77% | COC1=CC2=C(N=C(S2)C2=CC(=NN2C2=CC=C(C=C2)S(=O)(=O)C)C(F)(F)F)C=C1 | C19H14F3N3O3S2
